US05599935
Into 50 ml of dimethylformamide were dissolved 7.0 g (0.048 mol) of 8-quinolinol, to which 5.0 g (0.045 mol) of potassium tert-butoxide were added. The resulting mixture was stirred until a gas ceased generating and the liquid became transparent and thereafter mixed with 2.5 g (0.020 mol) of 2-chloromethyl-3-chloro-1-propene and a small amount of potassium iodide. The mixture was reacted at 70° C. for 24 hours with stirring. The reaction mixture was then cooled to room temperature, mixed with 150 ml of water and extracted thrice with 50 ml of benzene. The benzene phase was washed thrice with 100 ml of water and dried over anhydrous magnesium sulfate. The benzene was removed in vacuo and the residue was subjected to silica gel chromatography using chloroform as an elution liquid, thereby to separate 1.6 g (yield: 47%) of 2-(8-quinolyloxy)methyl-3-(8-quinolyloxy)-1-propene as a colorless solid having a melting point of about 101°-102° C. The chemical structure of this intermediate product was elucidated by NMR, IR and MS. The mass spectrometric analysis gave a molecular weight of 342.1375 (calculated: 342.1367 as C22H18N2O2).

reactant | 8-quinolinol | 0.048 mol, 7.0 g | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | potassium tert-butoxide | 0.045 mol, 5.0 g | CC(C)([O-])C.[K+]
reactant | 2-chloromethyl-3-chloro-1-propene | 0.020 mol, 2.5 g | ClCC(=C)CCl | C4H6Cl2
reactant | potassium iodide | [I-].[K+]
solvent | water | 150 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(8-quinolyloxy)methyl-3-(8-quinolyloxy)-1-propene | 1.6 g, yield: 47% | N1=CC=CC2=CC=CC(=C12)OCC(=C)COC=1C=CC=C2C=CC=NC12 | C22H18N2O2
